US07214700B2
N-(2-Chlorophenyl)-2-(3,5-dimethyl-1H-pyrrol-2-yl)-2-(2-oxo-1,2-dihydroindol-3-ylidene)-acetamide
(3,5-Dimethyl-1H-pyrrol-2-yl)-(2-oxo-1,2-dihydro-indol-3-ylidene)-acetic acid (90 mg) was reacted with 2-chloroaniline (80 mg) using method B to give 28 mg (22%) of the title compound.

reactant | (3,5-Dimethyl-1H-pyrrol-2-yl)-(2-oxo-1,2-dihydro-indol-3-ylidene)-acetic acid | 90 mg | CC1=C(NC(=C1)C)C(C(=O)O)=C1C(NC2=CC=CC=C12)=O | C16H14N2O3
reactant | 2-chloroaniline | 80 mg | ClC1=C(N)C=CC=C1 | C6H6ClN
product | N-(2-Chlorophenyl)-2-(3,5-dimethyl-1H-pyrrol-2-yl)-2-(2-oxo-1,2-dihydroindol-3-ylidene)-acetamide | 28 mg, 22% | ClC1=C(C=CC=C1)NC(C(=C1C(NC2=CC=CC=C12)=O)C=1NC(=CC1C)C)=O | C22H18ClN3O2
